US04301287
(e) 3-Hydroxy-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridinium bromide (Ia (salt)).
A solution of methyl 3-hydroxy-4,5,6,7-tetrahydroisoxazolo[5, 4-c]-pyridine-6-carboxylate (309 mg; 1.6 mmol) in a solution of hydrogen bromide in glacial acetic acid (3 ml; 43%) was refluxed for 15 minutes. Upon evaporation to dryness in vacuo the residue was treated with the same reagent (3 ml) for further 15 minutes. Evaporation of the reaction mixture to dryness in vacuo and recrystallization (methanol-ether) of the residue gave Ia (salt) (193 mg; 56%) as faintly reddish crystals, m.p. 162-163° C. (decomp.). IR (KBr): 3700-3300 (m), 3070 (s), 3000-2300 (several bands, m-s), 1670 (m), 1580 (m), 1525 (s), 1505 (w) cm-1. UV (methanol): <210 nm. 1H NMR [D2O (sodium 3-(trimethylsilyl) propanesulfonate was used as an internal standard)]: δ4.77 (ca. 5 H, s), 4.43 (2 H, t, J 1 Hz), 3.7- 3.4 (2 H, q, J 6 and 7 Hz), 3.0-2.7 (2 H, t).

reactant | methyl 3-hydroxy-4,5,6,7-tetrahydroisoxazolo[5, 4-c]-pyridine-6-carboxylate | 1.6 mmol, 309 mg | OC1=NOC=2CN(CCC21)C(=O)OC | C8H10N2O4
reactant | hydrogen bromide | Br | BrH
reactant | KBr | [K+].[Br-]
reactant | methanol | CO | CH4O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 3-Hydroxy-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridinium bromide | [Br-].OC1=[NH+]OC=2CNCCC21 | InChI=1S/C6H8N2O2.BrH/c9-6-4-1-2-7-3-5(4)10-8-6;/h7H,1-3H2,(H,8,9);1H
